US04650811
Under an inert atmosphere, 235 mg of 2-[(1H-indol-4-yl)-ethenyl]-phenol in 20 ml of tetrahydrofuran with 0.15 ml of diethyl azodicarboxylate, 0.1 ml of 3-chloro-1-propanol, and 262 mg of triphenylphospine were stirred for 5 hours. Then 0.1 ml of 3-chloro-1-propanol, 0.15 ml of diethyl azodicarboxylate and 262 mg of triphenyl phospine were added, and after 15 hours of stirring at ambient temperature, the mixture was concentrated to dryness. The residue was purified by chromatography on silica (eluent: benzene) to obtain 310 mg of 4-[2-[2-(3-chloropropoxy)-phenyl]-ethenyl]-1H-indol.

reactant | 2-[(1H-indol-4-yl)-ethenyl]-phenol | 235 mg | N1C=CC2=C(C=CC=C12)C=CC1=C(C=CC=C1)O | C16H13NO
reactant | diethyl azodicarboxylate | 0.15 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 3-chloro-1-propanol | 0.1 ml | ClCCCO | C3H7ClO
reactant | triphenylphospine | 262 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-chloro-1-propanol | 0.1 ml | ClCCCO | C3H7ClO
reactant | diethyl azodicarboxylate | 0.15 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenyl phospine | 262 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-[2-[2-(3-chloropropoxy)-phenyl]-ethenyl]-1H-indol | 310 mg | ClCCCOC1=C(C=CC=C1)C=CC1=C2C=CNC2=CC=C1 | C19H18ClNO
